US04965261
To a suspension of 4.72 g of 2-methoxy 6-nitrophenol in a mixture of 100 ml of water and 30 ml of methanol was added 29.3 g of sodium dithionite. The mixture was stirred at 60° C. until it became a uniform and colorless solution. To the reaction mixture was added a saturated aqueous solution of sodium chloride. The mixture was extracted with ethyl acetate and dried over anhydrous sodium sulfate. After the drying agent was filtered off, the solvent was distilled off under reduced pressure to give 3.65 g of crude 2-amino-6-methoxyphenol.

reactant | 2-methoxy 6-nitrophenol | 4.72 g | COC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO4
reactant | sodium dithionite | 29.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 2-amino-6-methoxyphenol | 3.65 g | NC1=C(C(=CC=C1)OC)O | C7H9NO2
